Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C+:2](=[C:3]=[C-:4][C:5]#[C:6][H:10])[H:8].[O:1]([H:7])[H:9]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:10])([H:8])[H:9])[H:7],3.111489329930002
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C@:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:13])[C:6]([H:8])([H:19])[O:7]1,89.4686122543116
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:6]([O:5][C:4](=[O:3])[H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],48.144077592738
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[C:5](=[O:6])([H:11])[H:12].[O:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7],47.985770697874614
[C:1]([C:2]([C:3]#[C:4][H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:4](=[C:3])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7],58.2393190577367
[C:1]([C@@:5]1([H:14])[C:4]([H:12])([H:13])[C+:2]([O:3][H:11])[C:7]([H:16])([H:17])[C-:6]1[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],17.95126103204271
[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[O:4]([H:13])[H:16]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],29.456738956199697
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@@:4]2([H:13])[C:5][C:6]1([H:7])[H:14]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9],37.71792109728979
[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O+:4][C:3](=[C:5]([O-:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],85.08894231540641
[C:1]([C:2]([O:7][C@@:6]1([H:15])[C:4](=[C:3]([H:13])[H:14])[O:5]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],34.076729718211496
[C:1]([O:4][H:14])([H:8])([H:9])[H:10].[C:2](=[C:3]([H:12])[H:13])([N:5]([C+:6]([O-:7])[H:16])[H:15])[H:11]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],77.28730072583258
[C:1]([C:2](=[C:3]=[N:4][H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],51.912585323959696
[C:1](/[N:2]=[c:3]1/[n:4]([H:11])[n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],36.0730980768941
[C:1]([O:2][C@@:3]1([C:5]([H:14])([H:15])[H:16])[C@@:4]2([H:13])[C:6]1=[C:7]2[H:17])([H:8])([H:9])[H:10].[H:11][H:12]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10],47.728132742761105
[N:1]1=[C:2]=[C:3]=[C:4]1[H:8].[N:5](=[N+:6]=[N-:7])[H:9]>>[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1,9.650721234141997
[C:1](=[C:2]([O:3][H:9])[C@:5]1([H:12])[C:4]([H:11])=[C:7]([H:13])[O:6]1)([H:8])[H:10]>>[C:1]([C@@:2]12[O:3][C@@:4]3([H:11])[C@:5]1([H:12])[O:6][C@@:7]23[H:13])([H:8])([H:9])[H:10],115.8306839212108
[N:1]([C:2]([N:3]1[N:4]=[C:5]1[N:6]([H:10])[H:11])=[O:7])([H:8])[H:9]>>[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9],25.9563960650849
[C:1]([N:2]([C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10].[C:3](=[N:4][H:12])=[C:5]=[O:6]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],43.86312094521771
[C:1]([C+:2]([N:3]([O-:7])[H:11])[C@:6]1([H:14])[O:4][C:5]1([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],53.01454448388319
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[C:5](=[O:6])([H:12])[H:13].[H:9][H:14].[O:1](/[C:2](=[C:3](\[O:4][H:11])[H:10])[H:8])[H:7],64.4966628208162
[N:1]([c:2]1[c:3]([H:9])[o:4][n:5][n:6]1)([H:7])[H:8]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][N:5]=[N:6]1)\[H:7],75.2327321139127
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[H:10])([H:7])[H:9].[N:4](=[C:5](/[O:6][H:8])[H:15])\[H:14],50.2553465467388
[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[N:3]\[H:10])/[N:4]=[C:5](/[O:6][H:11])[H:12])([H:7])([H:8])[H:9],42.5740647047301
[C:1]([C:2](/[C:3]([O:4][H:12])=[N:5]\[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],24.793624851207497
[C:1](/[C:2](=[C:3](/[C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])[H:11])([H:8])([H:9])[H:10].[O:4]([H:12])[H:14]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],49.93601707724829
